* SKY130 5T OTA schematic source generated from specs/ota.yaml
* Source of truth is the YAML spec; rerun `make netlist-ota` after sizing changes.
.subckt ota_5t inp inn out vdd vss bias
+ params: MN_IN_W=15.12 MN_IN_L=1.05 MN_IN_M=2
+ params: MP_LOAD_W=26 MP_LOAD_L=1.05 MP_LOAD_M=2
+ params: MN_TAIL_W=8 MN_TAIL_L=1 MN_TAIL_M=1

* Differential NMOS input pair with single-ended PMOS current-mirror load.
XMN_INP outn inp tail vss sky130_fd_pr__nfet_01v8 w=MN_IN_W l=MN_IN_L nf=MN_IN_M
XMN_INN out inn tail vss sky130_fd_pr__nfet_01v8 w=MN_IN_W l=MN_IN_L nf=MN_IN_M
XMP_DIODE outn outn vdd vdd sky130_fd_pr__pfet_01v8 w=MP_LOAD_W l=MP_LOAD_L nf=MP_LOAD_M
XMP_MIRROR out outn vdd vdd sky130_fd_pr__pfet_01v8 w=MP_LOAD_W l=MP_LOAD_L nf=MP_LOAD_M
XMN_TAIL tail bias vss vss sky130_fd_pr__nfet_01v8 w=MN_TAIL_W l=MN_TAIL_L nf=MN_TAIL_M
.ends ota_5t
